US04317830
(c) Preparation of 1-(2-cyclooctenylmethyl)imidazole
2-Cyclooctene-1-bromomethane (0.7 g, 0.0034 mol) was added dropwise to a boiling solution of imidazole (0.24 g, 0.0035 mol) and potassium t-butoxide (0.39 g, 0.0035 mol) in dry n-butanol, under dry nitrogen. After the addition, the reaction mixture was stirred and heated under reflux for 1 h. The pure product was obtained as described in Example 4, b.p. 108°-110°/0.02 mmHg.

reactant | 2-Cyclooctene 1-bromomethane | 0.0034 mol, 0.7 g | C1C=CCCCCC1.BrC
reactant | imidazole | 0.0035 mol, 0.24 g | N1C=NC=C1 | C3H4N2
reactant | potassium t-butoxide | 0.0035 mol, 0.39 g | CC(C)([O-])C.[K+]
solvent | n-butanol | C(CCC)O | C4H10O
product | 1-(2-cyclooctenylmethyl)imidazole | C1(C=CCCCCC1)CN1C=NC=C1 | C12H18N2
